US06420364B1
(a) Benzimidic Acid Methyl Ester
Benzimidic acid methyl ester hydrochloride (5 g, 29.1 mmol) was partitioned between saturated sodium carbonate solution (200 mL) and diethyl ether (I100 mL). The organic layer was dried (MgSO4) and concentrated to provide the desired product as a colorless liquid (3.20 g, 81%). This material was used without further purification. 1H NMR (400 MHz, CDCl3) δ 3.93 (s, 3H), 7.39-7.46 (m, 3H), 7.75 (d, J=1.1 Hz, 2H).

reactant | Benzimidic acid methyl ester hydrochloride | 29.1 mmol, 5 g | Cl.COC(C1=CC=CC=C1)=N
reactant | sodium carbonate | 200 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | diethyl ether | C(C)OCC | C4H10O
product | Benzimidic Acid Methyl Ester | 3.20 g, 81% | COC(C1=CC=CC=C1)=N | C8H9NO
